US07087601B2
To a 100 mL round-bottom flask with 3-hydroxy-4-methylbenzoic acid (2.5 g, 16.4 mmol), was added dropwise SOCl2 (15 mL). The reaction was refluxed for 30 min and cooled to rt. The excess of SOCl2 was removed in vacuo and the oily acid chloride was dissolved in THF (15 mL). This resulting solution was added dropwise to a mixture of 2-aminophenol (1.8 g, 16.4 mmol), triethylamine (1.7 g, 16.4 mmol) and THF (30 mL) at 0° C. The resulting reaction mixture was then brought to rt for 30 min and the resulting precipitate was removed by filtration. The filtrate was concentrated and dried under vacuum. The resulting dark brown solid residue was dissolved in toluene (20 mL) and p-toluenesulfonic acid (15.6 g, 82 mmol) was added. The reaction was refluxed overnight, cooled at rt and EtOAc (500 mL) was added. The EtOAc solution was washed with brine (3×50 mL), dried (MgSO4), filtered and concentrated in vacuo. The residue was recrystallized in EtOAc to afford 5-(1,3-benzoxazol-2-yl)-2-methylphenol as a light yellow solid. MS (ESI) 226 (M+H)+.

reactant | 3-hydroxy-4-methylbenzoic acid | 16.4 mmol, 2.5 g | OC=1C=C(C(=O)O)C=CC1C | C8H8O3
reactant | SOCl2 | 15 mL | O=S(Cl)Cl | Cl2OS
reactant | 2-aminophenol | 16.4 mmol, 1.8 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | triethylamine | 16.4 mmol, 1.7 g | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonic acid | 82 mmol, 15.6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 5-(1,3-benzoxazol-2-yl)-2-methylphenol | O1C(=NC2=C1C=CC=C2)C=2C=CC(=C(C2)O)C | C14H11NO2
